data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1775,1966,[CH3:16][C:17](=[O:18])[c-:19]1[o+:20][c:21](-[c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[o:28][c:29]1=[O:30].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:21]1([c:22]3[cH:23][cH:24][cH:25][cH:26][cH:27]3)[O:20][C:19]2([C:17]([CH3:16])=[O:18])[C:29](=[O:30])[O:28]1,water,298.15,28.007137836313767,2.0142506282844663
3679,4200,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[NH-:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[NH:19]1,water,298.15,26.47408550915084,-12.373314494496752
2096,2324,[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]([CH3:21])=[CH:22][C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]([CH3:21])[CH:22]2[C:23]([CH3:24])=[O:25],water,298.15,22.29056992034151,-39.01013223877076
3797,4347,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[N:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[C:17]2[C:18]([CH3:19])=[O:20],water,298.15,12.352451383156623,-38.734927916726896
3119,3511,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[CH:10]=[NH+:11][CH-:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:12]([C:13]([CH3:14])=[O:15])[NH:11][CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,18.5815442110502,-4.235046126851362
1177,1279,[CH3:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:20]([C:21]#[N:22])([C:23]#[N:24])[N:18]([CH3:19])[C:14]2([C:12]([CH3:11])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,30.22735335867682,-12.875441791617456
2852,3170,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[O:20][CH3:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:18](=[O:19])[O:20][CH3:21])[N:22]([CH3:23])[C:24]2([CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,31.06754989661197,-26.81665241436591
836,906,[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][C-:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:18]([CH3:19])([C:20](=[O:21])[O:22][CH3:23])[NH:17][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,26.062963447340763,-10.104663742294756
3617,4136,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])=[N:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,19.037903531579023,-24.39877375224756
1064,1161,[CH3:12][O:13][C:14](=[O:15])[C:16](=[NH+:17][C-:18]([CH3:19])[C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([O:5][CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:18]([CH3:19])([C:20]#[N:21])[NH:17][C:16]2([C:14]([O:13][CH3:12])=[O:15])[C:22]([CH3:23])=[O:24],water,298.15,19.66387538739779,-9.751312172022487
2061,2288,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:28](=[O:29])[O:30][CH3:31])[NH:20][C:21]2([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,18.22674130254784,-12.198229022989874
1078,1175,[CH3:13][N-:14][NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:17](=[O:18])[O:19][CH3:20])([C:21](=[O:22])[O:23][CH3:24])[NH:15][N:14]2[CH3:13],water,298.15,21.222688208681788,-8.402108122692695
